* Z:\home\aalmela\scm\git\utn\eaiii\2020\7_Mezcladores\ltspice\Draft5.asc
D1 N002 N003 1N5817
R1 N002 N001 50
R2 N002 N005 1e3
R4 N004 N003 50
VOL1 N001 0 SINE(0.5 0.5 4e6)
VRF1 N005 0 SINE(0 0.5 3.5e6)
L1 N004 0 10µ
C1 N004 0 10n
R3 N004 0 50
.model D D
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.dio
.tran 0 105e-6 100e-6 0.1e-9
.backanno
.end
