* C:\Users\ITeDA\scm\utn\2020\7_Mezcladores\ltspice\diode.asc
R1 N001 N003 1e3
R2 N004 0 10
D1 N003 N004 1N4148
C1 N003 N002 10n
V1 N002 0 SINE(0 10e-3 1e6)
V2 N001 0 SINE(0 1 500e3)
.model D D
.lib C:\Users\ITeDA\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 10e-6
.backanno
.end
