* Z:\home\aalmela\scm\git\utn\eaiii\2020\7_Mezcladores\ltspice\lineal_no_invar.asc
S1 N004 N001 N003 0 MYSW
VOL N003 0 SINE(0 1 4e6)
VRF N004 0 SINE(0 10e-6 3.5e6)
R2 N002 N001 1e3
L1 N002 0 10µ
C1 N002 0 10n
R1 N003 0 10e3
R3 N002 0 1e3
.model MYSW SW(Ron=1e-1 Roff=1e6 Vt=0.5 Vh=0)
.tran 0 105e-6 100e-6 0.1e-9
.backanno
.end
