* Z:\home\aalmela\scm\git\utn\eaiii\2020\7_Mezcladores\ltspice\mezclador_bipolar.asc
Q1 c b N006 0 2N3904
L1 N002 b 40e-9
L2 0 N006 40e-9
CA1 b N005 100e-9
C2 0 N006 7.817e-9
V1 N001 0 0.4
V2 N003 0 6
V3 N005 0 SINE(0 1e-3 10e6) AC 1e-3
R1 N002 N001 10
CA2 N002 0 1e-6
CA3 b N008 100e-9
R3 N008 0 50
V4 N007 0 SINE(0 0.3 9e6) AC 0
C1 N002 b 6.332e-9
CA5 N004 c 1e-6
RL N004 0 10e3
L3 N003 c 80e-6
C3 N003 c 316.6e-12
CA4 N007 N006 100e-9
R2 0 N006 50
.model NPN NPN
.model PNP PNP
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 110e-6 100e-6
;.step param R list  1 10 1e3 10e3
.backanno
.end
