* Z:\home\aalmela\scm\git\utn\eaiii\2020\7_Mezcladores\ltspice\mezclador_jfet.asc
L2 N008 N009 289e-9
C2 N008 N009 723e-12
CA2 N008 N007 10n
VOL N006 0 SINE(0 1 11e6)
rrf N004 N003 1e3
CA1 N005 N004 10n
C1 N005 0 795e-12
L1 N005 0 318.3e-9
L3 N001 N002 398e-6
RL N001 N002 250k
VRF N003 0 SINE(0 10e-3 10e6)
Rs N009 0 470
CA3 N009 0 10n
R5 N007 N006 1k
V3 N001 0 12
J1 N002 N005 N008 2N3819
C3 N001 N002 63e-12
.model NJF NJF
.model PJF PJF
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.jft
.tran 0 1010u 1000u
* Idss = 12mA
* vc = -3V
* Yin(10MHz) = j20e-6
* Yo(1MHz) =4e-6
.backanno
.end
