* Z:\home\aalmela\scm\git\utn\eaiii\2019\ModuladoresFM\LTspice\armstrong.asc
R1 N002 N004 4.7k
R2 N003 N002 4.7K
C1 N003 N002 100nC
Ca1 N004 m 10µC
V1 0 N005 2.5
V2 m 0 SINE(0 5 1e3)
XU1 N005 N002 N003 Vp Vn LTC2052
V3 Vp 0 5
V4 0 Vn 5
L1 vg N003 100µ
V5 c 0 SINE(0 0.1 1.9231e+06)
Ca2 vg c 100nC
C2 N001 vg 165.405p
B1 N001 0 I=10e-3*( 1 - (V(vg)/(-5)) )*( 1 - (V(vg)/(-5)) )
L2 N001 0 8.2761e-05
C3 N001 0 8.0639e-11
R3 o 0 10k
Ca3 o N001 100n
R4 N003 0 1k
.tran 0 10m 8m
.lib LTC2.LIB
.backanno
.end
