* Z:\home\aalmela\scm\git\utn\eaiii\2019\ModuladoresFM\LTspice\armstrong2n3819.asc
J1 N004 N003 N007 2N3819
RS N007 N010 200
L1 0 N010 1m
L2 0 N008 1m
rm N009 N008 10
Vm N009 0 SINE(0 0.1 10k)
CA2 N007 0 10µ
RG N003 0 10k
C1 N004 N003 2.12e-12
CA1 N003 N002 10n
L N001 N004 8.2761e-05
C N001 N004 8.0639e-11
CA3 N005 N004 10µ
RL N005 0 10k
VCC N001 0 9
Vc N006 0 SINE(0 0.1 1.9231e+06)
rc N002 N006 1k
.model NJF NJF
.model PJF PJF
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.jft
k1 L1 L2 1
.tran 1m
.backanno
.end
