* Z:\home\aalmela\scm\git\utn\eaiii\2020\8_Osciladores\LTspice\Barkhausen_ejemplo1_circuito.asc
Q1 N002 N003 N004 0 2N3904
R1 N004 0 470
CA1 N004 0 10n
R2 N001 N003 100k
R3 N003 0 22k
C1 N002 N001 100p
L1 N001 N002 1.2µ
L2 N005 0 1.2n
C2 N005 N003 100p
R4 N001 N002 10k
V1 N001 0 PWL(0 0 1e-9 9)
.model NPN NPN
.model PNP PNP
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.bjt
K1 L1 L2 1
.tran 0 101u 100u
.backanno
.end
