* Z:\home\aalmela\scm\git\utn\eaiii\2020\8_Osciladores\LTspice\Barkhausen_ejemplo1_circuito_Labierto.asc
Q1 N002 N004 N005 0 2N3904
R1 N005 0 470
CA1 N005 0 10n
R2 N001 N004 100k
R3 N004 0 22k
C1 N002 N001 100p
L1 N001 N002 1.2µ
L2 N007 0 1.2n
C2 N007 N006 100p
R4 N001 N002 10k
V1 N001 0 PWL(0 0 1e-9 9)
I1 0 N003 AC 10u
C3 N003 N004 10n
R5 N006 N008 100
C4 N008 0 11.8e-12
.model NPN NPN
.model PNP PNP
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.bjt
K1 L1 L2 1
.ac dec 1000 10e6 20e6
.backanno
.end
