* Z:\home\aalmela\scm\git\utn\eaiii\2020\8_Osciladores\LTspice\NE602 Rx.asc
V3 Vdd 0 5V
L3 OUTb OUTa 2.5µh
L4 INc INd 2.5µh
C3 OUTb OUTa 788e-12
XX1 INa INb 0 OUTb OUTa N006 NC_01 Vdd sa612
V1 N007 0 SINE(0 .3 10.42e6) AC 1e-6
C1 N006 N007 .001e-6
XX2 INc INd 0 N012 N013 N011 NC_02 Vdd sa612
V4 N015 0 SINE(0 .3 3.6e6) AC 1e-6
C6 N011 N015 .001e-6
XU1 N014 N010 Vdd 0 Audio_Out level2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R2 Audio_Out N010 1000k
R3 N010 N012 10k
R5 N014 N013 10k
R6 N016 N014 1000k
V6 N016 0 2.5V
C5 N012 N013 .001e-6
V2 N001 0 SINE(0 1uv 14e6) AC 1
L1 N004 0 .05µh
L2 INa N005 .625µh
R1 N002 N001 50
C2 INa INb 50p
L5 N005 INb .625µh
R4 N005 N008 500
V5 N009 0 0V
Q1 N008 P001 0 0 2N3904
R7 P001 N009 200k
L6 N003 0 1µh Rser=.01
C4 N003 0 130p
C7 N003 N002 20p
L7 N003 N004 5.5µh Rser=0

* block symbol definitions
.subckt sa612 1 2 3 4 5 6 7 8
Q5 N004 1 N008 0 MRF9411
R1 8 4 1500
R2 8 5 1500
R6 1 N006 2500
R7 N006 2 2500
R11 N008 3 450
R12 7 3 25k
R9 N007 N009 210
V2 N009 3 1.32
R5 8 N007 13k
R10 8 6 18k
R13 N002 3 25k
R15 8 N001 18k
E1 TP1 3 6 3 .4
E2 N003 3 N001 3 .4
Q1 4 N003 N004 0 MRF9411
Q3 4 TP1 N005 0 MRF9411
Q7 8 6 7 0 MRF9411
Q2 5 TP1 N004 0 MRF9411
Q4 5 N003 N005 0 MRF9411
Q6 N005 2 N008 0 MRF9411
Q8 8 N001 N002 0 MRF9411
E3 N006 3 N007 3 1
C1 1 3 2p
C2 2 3 2p
.MODEL MRF9411 NPN
+ IS = 4.558E-16
+ BF = 136
+ NF = 0.9979
+ VAF = 21
+ IKF = 0.7
+ ISE = 3.087E-14
+ NE = 2
+ BR = 42
+ NR = 0.993
+ VAR = 2.9
+ IKR = 0.016
+ ISC = 3.411E-17
+ NC = 1.087
+ RB = 7
+ IRB = 8E-05
+ RBM = 8
+ RE = 0.45
+ RC = 8
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 8.6E-13
+ VJE = 0.94
+ MJE = 0.42
+ CJC = 4.3E-13
+ VJC = 0.35
+ MJC = 0.21
+ XCJC = 0.44
+ TF = 1.3E-11
+ XTF = 400
+ VTF = 6
+ ITF = 1.5
+ PTF = 47
+ TR = 1E-09
+ FC = 0.98
.ends sa612

.model NPN NPN
.model PNP PNP
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.bjt
.tran 100usec
* Power Supply
k2 L3 L4 .9
* 1st Mixer
* Product Det.
* IF Filter
* >>SIMPLE SA612 RECEIVER w/RF GAIN CONTROL<<\n   -Fin = 14.0 MHz, Fif = 3.58 MHz, Faudio = 20 KHz.\n   -LO & BFO crystal oscillators omitted to speed up analysis.\n   -IF filter intentionally wide to speed up analysis\n   -Faudio intentionally high to speed up analysis\n   -Vin = 1uv pk-pk, Vout = 130mv pk-pk; voltage gain = 102dB\n   -Vagc > .6 VDC reduces receiver gain
* BFO
* Audio ampliifier
* Op-amp bias
* 1st LO
;ac lin 200 10e6 20e6
* T37-6 core; 29:29 turns
k1 L1 L2 L5 .90
* Input matching network
* AGC Voltage
* RF Signal
* Vin
* T37-6 core; 4:14:14 turns
.lib UniversalOpamps.sub
.backanno
.end
