* Z:\home\aalmela\scm\git\utn\eaiii\2019\Redes_de_adaptacion\Guia\LTspice\eje3.asc
I1 vs 0 AC 1e-6
R1 vs 0 74.6
L1 vs 0 2.37e-9 Rser=0
C1 vp 0 53.05e-12 Rser=0
R2 vp 0 1500
C2 vs 0 2e-12
L2 vp vs 28.8e-9 Rser=0
R3 vp 0 3e3
.ac dec 10000 90e6 110e6
K1 L1 L2 1
.backanno
.end
