* Z:\home\aalmela\scm\git\utn\eaiii\2019\Redes_de_adaptacion\segundaentrega\spice\eje2.asc
RL1 N006 0 2
C1 N002 N005 7.797e-09 Rser=0
L1 N002 N003 2.1187e-04 Rser=0
rpc1 N005 0 0.2
R1 N004 N003 1
C2 N004 N006 30p
R2 N001 0 50
I1 0 N001 AC 4
R3 N002 N001 0.000000011
.ac dec 100000 1.9e6 2.1e6
.backanno
.end
