* Z:\home\aalmela\scm\git\utn\eaiii\2019\Redes_de_adaptacion\segundaentrega\spice\Draft1.asc
C1 N001 0 4.722e-10
C2 N002 0 4.722e-09
L1 N001 N002 8.116e-08
R1 N002 0 1k
R2 N001 0 10k
I1 N001 0 AC 1
.ac dec 10e3 10e6 70e6
.backanno
.end
