* Z:\home\aalmela\scm\git\utn\eaiii\2020\2_Redes_de_adaptacion\ejemplos\spice\Draft1.asc
C1 N001 N002 2.17e-10
C2 N002 0 1.42e-09
R1 N002 0 100
L1 N001 0 5.73e-05
I1 N001 0 AC 1
.ac dec 10000 1e6 2e6
.backanno
.end
