* Z:\home\aalmela\scm\git\utn\eaiii\2020\docs\source\adaptacion\spice\Draft2.asc
L1 N002 0 {L1}
R1 N002 0 {Rl}
C1 N002 N001 {C1}
I1 N001 0 AC 1
.param L1 =  29.3825nHy
.param C1 =  12.2427pF
.param L2 =  4.8971nHy
.param C2 =  2.0404pF
.param Rl =  1.2000e+02
.param rg =  1.0000e+02
.ac dec 1000 600e6 700e6
.backanno
.end
