* Z:\home\aalmela\scm\git\utn\eaiii\2019\Ruido\LTspice\Draft2.asc
r1 o 0 {r11}
rg1 0 N001 {rg}
I1 N001 0 AC 1e-6
G1 0 0 0 n 1
re1 n 0 6.0358e-05
rp1 i 0 {rp1}
R2 i N001 0.000001
R3 o i 0.000001
.noise V(o) I1 dec 10001 10e6 1e9
;ac dec 10001 1e 2
.param rp1 = 1.245e+05
.param rg = 1.000e+03
.param r11 = 1.000e+03
.backanno
.end
