* Z:\home\aalmela\scm\git\utn\eaiii\2019\Ruido\LTspice\QuintaRFruido.asc
r1 ia 0 {1/g11}
r2 oa 0 {1/g22}
B§y2 oa 0 I=V(ia)*{g21}+ddt(V(ia))*{c21}
V1 N002 0 AC 1
R3 N004 0 {rl}
R4 N003 N002 {rg}
L1a N003 0 {L1a}
C3 N001 0 {C1}
L1b ia N003 {L1b}
L1c N001 ia {L1c}
L1 oa 0 {L1}
C5 oa N004 {C2}
C6 N004 0 {C3}
R5 N001 0 {rp1}
R6 oa 0 {rp1}
.ac dec 100000 10e6 400e6
k1 L1a L1b 1
k2 L1a L1c 1
k3 L1b L1c 1
.param L1a = 6.300e-09
.param L1b = 1.260e-08
.param L1c = 2.368e-08
.param rp1 = 9.000e+03
.param C1 = 1.474e-11
.param L1  = 1.194e-07
.param Lp  = 8.399e-09
.param Cp = 5.000e-12
.param C2 = 5.031e-11
.param C3 = 2.084e-11
.param rg = 5.000e+01
.param g11 = 2.000e-03
.param g12 = -1.000e-04
.param c12 = 0.000e+00
.param g21 = 3.000e-02
.param c21 = -2.520e-11
.param g22 = 5.000e-04
.param rl = 1.000e+03
.backanno
.end
