* Z:\home\aalmela\scm\git\utn\eaiii\2019\Ruido\LTspice\resistencia.asc
I1 o 0 AC 1e-9
R2 o 0 6.0358e-05
C1 o 0 1e-9
.noise V(o) I1 dec 1e4 10 1e9
.backanno
.end
