* Z:\home\aalmela\scm\git\utn\eaiii\2019\Ruido\LTspice\sintonizado2.asc
C1 i 0 {C1}
L1 i 0 {L1} Rser=0
R3 i 0 {r11}
B1 o 0 I=gm*V(i)
R1 o 0 {r22}
R2 0 i {rg}
R4 i 0 {rp1}
I1 i 0 AC 1
C2 o 0 {C2}
L2 o 0 {L2} Rser=0
R5 o 0 {rl}
R6 o 0 {rp2}
G1 0 o 0 n {geo}
re1 n 0 6.0358e-05
.noise V(o) I1 dec 10001 10e6 1e9
.param rg = 1.000e+03
.param L1 = 1.981e-08
.param C1 = 1.278e-10
.param rp1 = 1.245e+05
.param gei = 4.411e+00
.param geo = 6.590e+01
.param r11 = 1.000e+03
.param gm = 3.000e-02
.param r22 = 1.000e+04
.param L2 = 1.981e-07
.param C2 = 1.278e-11
.param rp2 = 1.245e+06
.param rl = 1.000e+04
.backanno
.end
