* Z:\home\aalmela\scm\git\utn\eaiii\2019\Ruido\LTspice\unsimpleNF.asc
r11 i 0 {r11}
B1 o 0 I={gm}*V(i)
r22 o 0 {r22}
rg 0 i {rg}
I1 i 0 AC 1e-6
G1 0 0 0 n {gei}
re1 n 0 6.0358e-05
rl o 0 {rl}
L1 i 0 {L1} Rser=0
C1 i 0 {C1} Rser=0
rp1 i 0 {rp1}
.noise V(i) I1 dec 10001 10e6 1e9
;ac dec 10001 1e 2
.param L1 = 1.981e-08
.param C1 = 1.278e-10
.param rp1 = 1.245e+05
.param rg = 1.000e+03
.param r11 = 1.000e+03
.param gm = 3.000e-02
.param r22 = 1.000e+04
.param rl = 1.000e+04
.param gei = 4.411e+00
.backanno
.end
